US07968587B2
(±)-3-[7-Cyano-4-(6-fluoro-pyridin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-1,1-dimethyl-urea
To a solution of (±)-2-amino-4-(6-fluoro-pyridin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile (70 mg, 0.23 mmol) and diisopropylethylamine (0.35 mmol, 61 μL) in dichloromethane (1 mL) add N,N-dimethylcarbamoyl chloride (0.35 mmol, 32 μL) and stir at room temperature overnight. Load the solution on silica gel and purify by column chromatography (0-100% ethyl acetate/dichloromethane) to obtain the title compound. LCMS 378.1 (M+1).

reactant | (±)-2-amino-4-(6-fluoro-pyridin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile | 0.23 mmol, 70 mg | NC1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC(=CC=C2)F)C1 | C18H15FN4
reactant | diisopropylethylamine | 0.35 mmol, 61 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethylcarbamoyl chloride | 0.35 mmol, 32 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (±)-3-[7-Cyano-4-(6-fluoro-pyridin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-1,1-dimethyl-urea | C(#N)C1=CC=2C3=C(N(C2C=C1)CC1=NC(=CC=C1)F)CC(C3)NC(N(C)C)=O | C21H20FN5O
